*
* ManualSwitch.lib
* LTspice manual switch models for the EE2 FPGA input circuits.
*
* These are parameter-controlled ideal contact models. They are useful for
* manually choosing switch/button states in a schematic without adding a
* voltage-controlled switch driver circuit.
*
* Ron/Roff defaults:
*   RON  = 50 milliohm closed contact
*   ROFF = 1 gigaohm open contact
*
* Usage examples:
*
*   .include ManualSwitch.lib
*
*   SPST normally-open switch:
*     XSW node_a node_b MANUAL_SPST_NO STATE=1
*       STATE=0 -> open
*       STATE=1 -> closed
*
*   SPST normally-closed switch:
*     XSW node_a node_b MANUAL_SPST_NC STATE=0
*       STATE=0 -> closed
*       STATE=1 -> open
*
*   SPDT switch:
*     XSW common throw_high throw_low MANUAL_SPDT STATE=1
*       STATE=0 -> common connected to throw_low
*       STATE=1 -> common connected to throw_high
*
*   Active-low push button to ground:
*     Rpull gpio CTRL_3V3 10k
*     XBTN gpio 0 MANUAL_PUSH_NO PRESS=1
*       PRESS=0 -> released
*       PRESS=1 -> pressed, gpio pulled low
*
* Suggested for this project:
*   Mode switch:
*     XMODE SW_MODE_TO_3V3_OR_GND CTRL_3V3 0 MANUAL_SPDT STATE=0
*       STATE=0 -> Mode 1
*       STATE=1 -> Mode 2
*
*   Display switch:
*     XDISP SW_DISPLAY_TO_3V3_OR_GND CTRL_3V3 0 MANUAL_SPDT STATE=0
*       STATE=0 -> 2D
*       STATE=1 -> 3D
*
*   Wall/source switch:
*     XWALL GPIO5_WALL_SOURCE 0 MANUAL_SPST_NO STATE=0
*       with a pull-up to CTRL_3V3
*       STATE=0 -> source/high
*       STATE=1 -> wall/low
*
*   Clear button:
*     XCLEAR GPIO18_CLEAR_BUTTON 0 MANUAL_PUSH_NO PRESS=0
*       with a pull-up to CTRL_3V3
*       PRESS=0 -> not clearing/high
*       PRESS=1 -> clear pressed/low
*

.subckt MANUAL_SPST_NO a b PARAMS: STATE=0 RON=50m ROFF=1G
Rsw a b {if(STATE>0.5,RON,ROFF)}
.ends MANUAL_SPST_NO

.subckt MANUAL_SPST_NC a b PARAMS: STATE=0 RON=50m ROFF=1G
Rsw a b {if(STATE>0.5,ROFF,RON)}
.ends MANUAL_SPST_NC

.subckt MANUAL_PUSH_NO a b PARAMS: PRESS=0 RON=50m ROFF=1G
Rsw a b {if(PRESS>0.5,RON,ROFF)}
.ends MANUAL_PUSH_NO

.subckt MANUAL_PUSH_NC a b PARAMS: PRESS=0 RON=50m ROFF=1G
Rsw a b {if(PRESS>0.5,ROFF,RON)}
.ends MANUAL_PUSH_NC

.subckt MANUAL_SPDT common throw_high throw_low PARAMS: STATE=0 RON=50m ROFF=1G
Rhigh common throw_high {if(STATE>0.5,RON,ROFF)}
Rlow  common throw_low  {if(STATE>0.5,ROFF,RON)}
.ends MANUAL_SPDT
